US04614807
The above ketal was hydrogenated over a rhodium-on-alumina catalyst as follows: After dissolving 16 g of ethyl 2-(2-cyanoethyl)acetoacetate ethyleneketal in 90 ml of 10% ethanolic ammonia, 2 g of 5% rhodium-on-alumina were added, and the mixture hydrogenated at low pressure. The catalyst was separated by filtration, and the solvent removed from the filtrate to yield, as a residue, ethyl 2-(3-aminopropyl)acetoacetate ethyleneketal formed in the above hydrogenation. NMR indicated a mixture of the expected ketal plus some cyclized product produced by the next reaction step. The crude product from the above reaction was therefore heated in toluene solution for about 2 hours to convert the amino derivative to 3-acetyl-2-piperidone ethyleneketal. NMR showed the reaction being incomplete at this point; heating in toluene was therefore continued for 7 more hours. NMR again showed incomplete reaction; so heating was continued overnight. After a total of 24 hours of heating under reflux, the reaction mixture was cooled, and the solvent was removed in vacuo.

reactant | ethyl 2-(2-cyanoethyl)acetoacetate ethyleneketal | 16 g | C1COC(C(C(=O)OCC)CCC#N)(C)O1 | C11H17NO4
catalyst | rhodium-on-alumina | [Rh] | Rh
solvent | ammonia | 90 ml | N | H3N
catalyst | rhodium-on-alumina | 2 g | [Rh] | Rh
product | ethyl 2-(3-aminopropyl)acetoacetate ethyleneketal | C1COC(C(C(=O)OCC)CCCN)(C)O1 | C11H21NO4
